US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (0.270 g, 1.220 mmol) in THF (10 mL) was added tert-butyllithium (1.077 mL, 1.830 mmol) dropwise at −78° C. After stirring for 0.5 h, pyrrolidine-1-carbonitrile (0.135 mL, 1.342 mmol) was added, then the solution was warmed to rt, and stirred for 16 h. The reaction mixture was quenched with MeOH, neutralized with 1.5 mL of 4.0M HCl in dioxane. Extracted product with 20 mL of DCM. The solution was evaporated on rotovap and then placed under high vacuum for 1 h to give 6-methoxy-3-(pyrrolidin-1-yl)isoquinolin-1-ol (298 mg, 100% yield) which was used in the next step without further purification. MS m/z 245.1 (M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 1.220 mmol, 0.270 g | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.830 mmol, 1.077 mL | C(C)(C)(C)[Li]
reactant | pyrrolidine-1-carbonitrile | 1.342 mmol, 0.135 mL | N1(CCCC1)C#N | C5H8N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-methoxy-3-(pyrrolidin-1-yl)isoquinolin-1-ol | 298 mg, 100% yield | COC=1C=C2C=C(N=C(C2=CC1)O)N1CCCC1 | C14H16N2O2
